US07205306B2
5-Chloro-3-(7-chloro-5-methoxy-2,3-dihydro-1H-indol-1-yl)-1-[(1R)-1-(methoxymethyl)propyl]-2(1H)-pyrazinone
Prepared in a similar fashion as described for Example 413 using 3,5-dichloro-1-[(1R)-1-(methoxymethyl)propyl]-2(1H)-pyrazinone and 7-chloro-5-methoxyindoline hydrochloride as the starting materials. mp 126–128° C.; 1H NMR (300 MHz, CDCl3): δ 6.99 (s, 1 H), 6.74 (s, 2 H), 5.00–4.90 (m, 1 H), 4.35 (t, J=8.0 Hz, 2 H), 3.78 (s, 3 H), 3.67 (dd, J=10.6, 5.5 Hz, 1 H), 3.56 (dd, J=10.6, 3.7 Hz, 1 H), 3.35 (s, 3 H), 3.09 (t, J=7.7 Hz, 2 H), 1.92–1.72 (m, 2 H), 0.93 (t, J=7.4 Hz, 3 H); HRMS (ESI) calcd for C18H22N3O3Cl2 (M+H)+: 398.1038; Found m/z 398.1064.

reactant | 3,5-dichloro-1-[(1R)-1-(methoxymethyl)propyl]-2(1H)-pyrazinone | ClC=1C(N(C=C(N1)Cl)[C@H](CC)COC)=O | C9H12Cl2N2O2
reactant | 7-chloro-5-methoxyindoline hydrochloride | Cl.ClC=1C=C(C=C2CCNC12)OC
product | 5-Chloro-3-(7-chloro-5-methoxy-2,3-dihydro-1H-indol-1-yl)-1-[(1R)-1-(methoxymethyl)propyl]-2(1H)-pyrazinone | ClC=1N=C(C(N(C1)[C@H](CC)COC)=O)N1CCC2=CC(=CC(=C12)Cl)OC | C18H21Cl2N3O3
